US07238716B2
To a mixture of 4-[methyl(4-phenyl-2-thiazolyl)aminomethyl]benzyl alcohol (1.00 g), methyl 2-(4-hydroxyphenyl)acetate (643 mg), tributylphosphine (1.30 g) and tetrahydrofuran (30 mL) was added 1,1′-(azodicarbonyl)dipiperidine (1.62 g) at room temperature and the mixture was stirred for 16 hrs. The precipitated crystals were filtered off. The filtrate was concentrated and the residue was subjected to silica gel column chromatography to give methyl 4-[4-[methyl(4-phenyl-2-thiazolyl)aminomethyl]benzyloxy]phenylacetate (1.48 g, quantitative) as a yellow oil from a fraction eluted with ethyl acetate-hexane (1:4, v/v).

reactant | 4-[methyl(4-phenyl-2-thiazolyl)aminomethyl]benzyl alcohol | 1.00 g | CC(C1=CC=C(CO)C=C1)NC=1SC=C(N1)C1=CC=CC=C1 | C18H18N2OS
reactant | methyl 2-(4-hydroxyphenyl)acetate | 643 mg | OC1=CC=C(C=C1)CC(=O)OC | C9H10O3
reactant | tributylphosphine | 1.30 g | C(CCC)P(CCCC)CCCC | C12H27P
reactant | 1,1′-(azodicarbonyl)dipiperidine | 1.62 g | N(=NC(=O)N1CCCCC1)C(=O)N1CCCCC1 | C12H20N4O2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | methyl 4-[4-[methyl(4-phenyl-2-thiazolyl)aminomethyl]benzyloxy]phenylacetate | 1.48 g | CC(C1=CC=C(COC2=CC=C(C=C2)CC(=O)OC)C=C1)NC=1SC=C(N1)C1=CC=CC=C1 | C27H26N2O3S
